### PR TITLE
[Merged by Bors] - feat: complete multipartite graphs

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Complete.20multipartite.20graphs/near/386500598

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -220,14 +220,25 @@ theorem CliqueFree.anti (h : G ≤ H) : H.CliqueFree n → G.CliqueFree n :=
...
+/-- A complete `r`-partite graph has no `r + 1`-cliques. -/
+theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι → Type*) :
+    (completeMultipartiteGraph V).CliqueFree (Fintype.card ι + 1) := fun t => by
+  rw [isNClique_iff, and_comm, not_and]
+  intro hc
+  obtain ⟨v, w, hn, he⟩ := exists_ne_map_eq_of_card_lt (fun k : t => k.1.1) (by simp [hc])
+  simp only [IsClique, Set.Pairwise, not_forall]
+  use v, v.2, w, w.2
+  simp only [exists_prop, comap_Adj, he, SimpleGraph.irrefl, and_true]
+  contrapose! hn; rw [Subtype.mk.injEq]; exact hn
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:240]: Here's a more conceptual proof:
```suggestion
theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι → Type*) :
    (completeMultipartiteGraph V).CliqueFree (Fintype.card ι + 1) := by
  rw [cliqueFree_iff, isEmpty_iff]
  intro f
  obtain ⟨v, w, hn, he⟩ := exists_ne_map_eq_of_card_lt (Sigma.fst ∘ f) (by simp)
  rw [← top_adj, ← f.map_adj_iff, comap_Adj, top_adj] at hn
  exact absurd he hn
```
The key fact in the theorem is that if there were a clique you'd have a graph embedding from a complete graph that's "too big", and then using the pigeonhole principle you can find some vertices that are adjacent that shouldn't be.

I'd prefer if we adjust the statement slightly, making it be more like the preceding theorem:
```lean
/-- A complete `r`-partite graph has no `n`-cliques for `r < n`. -/
theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι → Type*)
    (hc : card ι < n) : (completeMultipartiteGraph V).CliqueFree n := by
  rw [cliqueFree_iff, isEmpty_iff]
  intro f
  obtain ⟨v, w, hn, he⟩ := exists_ne_map_eq_of_card_lt (Sigma.fst ∘ f) (by simp [hc])
  rw [← top_adj, ← f.map_adj_iff, comap_Adj, top_adj] at hn
  exact absurd he hn
```

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 2]
```diff
@@ -1306,6 +1297,12 @@ lemma le_comap_of_subsingleton (f : V → W) [Subsingleton V] : G ≤ G'.comap f
 lemma map_le_of_subsingleton (f : V ↪ W) [Subsingleton V] : G.map f ≤ G' := by
   rw [map_le_iff_le_comap]; apply le_comap_of_subsingleton
 
+/-- Given a family of vertex types indexed by `ι`, pulling back from `⊤ : SimpleGraph ι`
+yields the complete multipartite graph on the family.
+Any graph may be regarded as a subgraph of one of these, with sufficiently many parts. -/
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1302]: This last sentence is true, and I see you're going for parallelism with the `completeBipartiteGraph` docstring, but it's not very helpful to know immediately (it could be a nice theorem over in the file on graph colorings though -- given a graph coloring, you can create a multipartite graph out of the color classification function, then identify the original graph as a subgraph of the `completeMultipartiteGraph`. Not in this PR though.)

This would be very helpful to the reader:
```suggestion
Two vertices are adjacent if and only if their indices are not equal. -/
```

**Review by kmill — COMMENTED** [review]
Thanks for getting around to this TODO

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean]: Both done.

**Comment by kmill** [comment]
Thanks

bors d+

**Comment by Parcly-Taxel** [comment]
bors merge

**Comment by YaelDillies** [comment]
Sorry, could we define complete multipartite graphs via setoids rather?
